US04810828
A solution of 1.0 g (3.63 mmol) of 1-(6-ethyl-5-methyl-7-methylthioimidazo[1,2-a]pyrimidin-2-yl)-2-methyl-2-propen-1-one in 50 ml of chloroform was treated with 0.71 g (4.0 mmol) of N-bromosuccinimide. After 20 minutes at room temperature, the solvent was removed under reduced pressure and the residue was purified by flash chromatography (silica, 25 g: dichloromethane) to obtain 1.1 g (87%) of 1-(3-bromo-6-ethyl-5-methyl-7-methylthioimidazo[1,2-a]pyrimidin-2-yl)-2-methyl-2-propen-1-one in the form of pale yellow crystals melting at 87°-9° C.

reactant | 1-(6-ethyl-5-methyl-7-methylthioimidazo[1,2-a]pyrimidin-2-yl)-2-methyl-2-propen-1-one | 3.63 mmol, 1.0 g | C(C)C=1C(=NC=2N(C1C)C=C(N2)C(C(=C)C)=O)SC | C14H17N3OS
reactant | N-bromosuccinimide | 4.0 mmol, 0.71 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-bromo-6-ethyl-5-methyl-7-methylthioimidazo[1,2-a]pyrimidin-2-yl)-2-methyl-2-propen-1-one | 1.1 g, 87% | BrC1=C(N=C2N1C(=C(C(=N2)SC)CC)C)C(C(=C)C)=O | C14H16BrN3OS
